US04137325
2-nitro-4-trifluoromethyl-6-morpholinylbenzonitrile is prepared from 2,6-dinitro-4-trifluoromethylbenzonitrile and morpholine as in example 10, m.p. 174°-178° C.

reactant | 2,6-dinitro-4-trifluoromethylbenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C8H2F3N3O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-nitro-4-trifluoromethyl-6-morpholinylbenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC(=C1)C(F)(F)F)N1CCOCC1 | C12H10F3N3O3
